US07947706B2
76 mg of solid yellow 3-{4-[3-(2-chloro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide are prepared as described in Example 1 starting with 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide and 2-chloro-5-trifluoromethylphenyl isocyanate.

reactant | 3-(4-aminophenyl)-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N | C14H12N4O
reactant | 2-chloro-5-trifluoromethylphenyl isocyanate | ClC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3ClF3NO
product | 3-{4-[3-(2-chloro-5-trifluoromethylphenyl)ureido]phenyl}-1H-pyrrolo[2,3-c]pyridine-2-carboxamide | ClC1=C(C=C(C=C1)C(F)(F)F)NC(NC1=CC=C(C=C1)C1=C(NC2=CN=CC=C21)C(=O)N)=O | C22H15ClF3N5O2
